US07238808B2
4-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzamide
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 g, 1.0 mmol) and commercially available 4-bromobenzamide (180 mg, 0.9 mmol) according to general procedure II. Obtained as a yellow solid (290 mg, 61%). MS (ISP) 475.1 [(M+H)+]; mp 260° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 g | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 4-bromobenzamide | 0.9 mmol, 180 mg | BrC1=CC=C(C(=O)N)C=C1 | C7H6BrNO
product | 4-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzamide | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(C(=O)N)C=C2)C2=CC=C(C=C2)C(F)(F)F)(F)F | C23H12F6N4O
